US09079866B2
Step E: 5-(2-Fluoro-4-(2-(pyrrolidin-3-ylsulfonyl)pyridin-3-yl)phenyl)pyrazin-2-amine hydrochloride
To a solution consisting of tert-butyl 3-(3-(4-(5-aminopyrazin-2-yl)-3-fluorophenyl)pyridin-2-ylsulfonyl)pyrrolidine-1-carboxylate (150 mg, 0.300 mmol) and DCM (10 mL) was added HCl/EtOH (5 N, 10 mL). The mixture was stirred at rt for 2 h, concentrated to dryness, and the resultant residue subjected to HPLC purification to give the title compound (67 mg, 52%). MS (ESI): mass calcd. For C19H18FN5O2S.HCl 399.12; m/z found, 400.1 [M+H]+. 1H NMR (300 MHz, DMSO-d6) δ 9.79 (br s, 1H), 9.42 (br s, 1H), 8.79 (d, J=4.6, 1H), 8.51-8.30 (m, 1H), 8.20-7.78 (m, 3H), 7.51-7.02 (m, 3H), 4.81 (dd, J=14.1, 7.6, 1H), 3.72 (s, 1H), 3.49-3.14 (m, 3H), 2.44-2.20 (m, 2H).

reactant | tert-butyl 3-(3-(4-(5-aminopyrazin-2-yl)-3-fluorophenyl)pyridin-2-ylsulfonyl)pyrrolidine-1-carboxylate | 0.300 mmol, 150 mg | NC=1N=CC(=NC1)C1=C(C=C(C=C1)C=1C(=NC=CC1)S(=O)(=O)C1CN(CC1)C(=O)OC(C)(C)C)F | C24H26FN5O4S
reactant | HCl EtOH | 5 N, 10 mL | Cl.CCO
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 5-(2-Fluoro-4-(2-(pyrrolidin-3-ylsulfonyl)pyridin-3-yl)phenyl)pyrazin-2-amine hydrochloride | 67 mg, 52% | Cl.FC1=C(C=CC(=C1)C=1C(=NC=CC1)S(=O)(=O)C1CNCC1)C=1N=CC(=NC1)N | InChI=1S/C19H18FN5O2S.ClH/c20-16-8-12(3-4-15(16)17-10-25-18(21)11-24-17)14-2-1-6-23-19(14)28(26,27)13-5-7-22-9-13;/h1-4,6,8,10-11,13,22H,5,7,9H2,(H2,21,25);1H
